US04012379
While a mixture of 0.344 g. of 7-amino-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid, 0.42 g. of sodium hydrogen carbonate, 5 ml. of water and 5 ml. of acetone is stirred under cooling at 5° C, 0.2 g. of diketene is added and the mixture is further stirred at room temperature for 30 minutes. The acetone is removed from the reaction mixture by distillation under reduced pressure and the residual is washed with ethyl acetate. The water layer is separated, adjusted to pH 2 with 50 % phosphoric acid and extracted three times with ethyl acetate. The extracts are pooled, washed with a saturated aqueous solution of sodium chloride, dehydrated over magnesium sulfate, concentrated and allowed to stand under cooling with ice. With the addition of ether the resultant crystals are loosened and recovered by suction-filtration. The procedure gives 7-acetoacetamido-3(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid as crystals melting at 177°-180° C (decomp.). Yield 0.129 g. (30 %).

reactant | 7-amino-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O | C11H12N4O3S3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | water | O | H2O
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
solvent | acetone | CC(=O)C | C3H6O
product | 7-acetoacetamido-3(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | C(CC(=O)C)(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O | C15H16N4O5S3
